US04540430
17 g (0.07 mol) of 5-chloro-3-trichloromethyl-1,2,4-thiadiazole are added to a stirred mixture which comprises 11 g (0.07 mol) of hydroxyacetic acid 2-methylpiperidide, 4.5 g (0.07 mol) of potassium hydroxide powder and 100 ml of isopropanol and has been cooled to -10° C. The reaction mixture is stirred for 20 hours at -10° C. and then poured into water, and the product is filtered off under suction and washed with water. 18 g (72% of theory) of (3-trichloromethyl-1,2,4-thiadiazol-5-yl)-oxyacetic acid 2-methyl-piperidide are obtained in the form of a white powder of melting point 88° C.

reactant | 5-chloro-3-trichloromethyl-1,2,4-thiadiazole | 0.07 mol, 17 g | ClC1=NC(=NS1)C(Cl)(Cl)Cl | C3Cl4N2S
reactant | hydroxyacetic acid 2-methylpiperidide | 0.07 mol, 11 g | CC1N(CCCC1)C(CO)=O | C8H15NO2
reactant | potassium hydroxide | 0.07 mol, 4.5 g | [OH-].[K+]
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | (3-trichloromethyl-1,2,4-thiadiazol-5-yl)-oxyacetic acid 2-methyl-piperidide | 18 g, 72% | CC1N(CCCC1)C(COC1=NC(=NS1)C(Cl)(Cl)Cl)=O | C11H14Cl3N3O2S
